US08497274B2
(iii) Production of N-[5-(4-amino-2-cyanophenoxy)-2-fluorophenyl]-2,2,2-trifluoroacetamide
To a solution of N-[5-(2-cyano-4-nitrophenoxy)-2-fluorophenyl]-2,2,2-trifluoroacetamide (6.00 g, 16.3 mmol) in methanol (160 mL) was added 10% palladium-carbon (600 mg), and the mixture was stirred at room temperature for 2 hr under a hydrogen atmosphere (1 atm). Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure to give the title compound (5.44 g, 99%) as a gray oil.

reactant | N-[5-(2-cyano-4-nitrophenoxy)-2-fluorophenyl]-2,2,2-trifluoroacetamide | 16.3 mmol, 6.00 g | C(#N)C1=C(OC=2C=CC(=C(C2)NC(C(F)(F)F)=O)F)C=CC(=C1)[N+](=O)[O-] | C15H7F4N3O4
solvent | methanol | 160 mL | CO | CH4O
catalyst | palladium-carbon | 600 mg | [C].[Pd]
product | N-[5-(4-amino-2-cyanophenoxy)-2-fluorophenyl]-2,2,2-trifluoroacetamide | 5.44 g, 99% | NC1=CC(=C(OC=2C=CC(=C(C2)NC(C(F)(F)F)=O)F)C=C1)C#N | C15H9F4N3O2
